US05712274
(S)-(4-Chlorophenyl)-2,3,9-trimethyl-6H-thieno[3,2-f]-[1,2,4]triazolo[4,3-a][1,4]diazepine-6-acetic acid (2.64 g) is dissolved in dimethylformamide (30 ml). N-Dimethylaminopropyl-N'-ethylcarbodiimide hydrochloride (1.51 g) and triethylamine (1.08 ml) are added in order and the mixture is stirred. Five minutes later, 3-aminopyridine (0.66 g) is added to the reaction mixture and the mixture is stirred at room temperature overnight. The reaction mixture is poured into water, and the obtained crystals are purified by column chromatography (chloroform: methanol =50: 1). The crystals are converted to hydrochloride with ethanol/hydrochloric acid in ethyl acetate, and recrystallized from ethanol/ethyl acetate to give 0.88 g of (S)-N-(3-pyridyl)-4-(4-chlorophenyl)-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine-6-acetamide hydrochloride, melting point 198°-201° C.

reactant | (S)-(4-Chlorophenyl)-2,3,9-trimethyl-6H-thieno[3,2-f]-[1,2,4]triazolo[4,3-a][1,4]diazepine-6-acetic acid | 2.64 g | ClC1=CC=C(C=C1)C1=N[C@H](C=2N(C3=C1C(=C(S3)C)C)C(=NN2)C)CC(=O)O | C19H17ClN4O2S
reactant | N-Dimethylaminopropyl-N'-ethylcarbodiimide hydrochloride | 1.51 g | Cl.CN(C)CCCN=C=NCC
reactant | triethylamine | 1.08 ml | C(C)N(CC)CC | C6H15N
reactant | 3-aminopyridine | 0.66 g | NC=1C=NC=CC1 | C5H6N2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (S)-N-(3-pyridyl)-4-(4-chlorophenyl)-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine-6-acetamide hydrochloride | 0.88 g | Cl.N1=CC(=CC=C1)NC(C[C@H]1C=2N(C3=C(C(=N1)C1=CC=C(C=C1)Cl)C(=C(S3)C)C)C(=NN2)C)=O | InChI=1S/C24H21ClN6OS.ClH/c1-13-14(2)33-24-21(13)22(16-6-8-17(25)9-7-16)28-19(23-30-29-15(3)31(23)24)11-20(32)27-18-5-4-10-26-12-18;/h4-10,12,19H,11H2,1-3H3,(H,27,32);1H/t19-;/m0./s1
